US07648986B2
Step 5: Preparation of 2-(4-chlorothieno[3,2-d]pyrimidin-2-yl)quinoxaline
A solution of 2-(2-quinoxalinyl)thieno[3,2-d]pyrimidin-4-ol (150 mg, 0.54 mmol) in POCl3 (5 mL) was heated to reflux and maintained at reflux overnight. After cooling to rt, excess POCl3 was removed under reduced pressure to give the crude product which was used in the next step without further purification.

reactant | 2-(2-quinoxalinyl)thieno[3,2-d]pyrimidin-4-ol | 0.54 mmol, 150 mg | N1=C(C=NC2=CC=CC=C12)C=1N=C(C2=C(N1)C=CS2)O | C14H8N4OS
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-(4-chlorothieno[3,2-d]pyrimidin-2-yl)quinoxaline | ClC=1C2=C(N=C(N1)C1=NC3=CC=CC=C3N=C1)C=CS2 | C14H7ClN4S
